US07582644B2
i) 4-Methyl-1-piperazinesulfonamide
N-Methyl piperazine (5 ml) and sulfamide (11.26 g) in 1,4-dioxane (100 ml) were heated at reflux for 48 h. The solvent was evaporated under reduced pressure and the resulting solid dissolved in a mixture of methanol and water and applied to a plug of SCX-silica followed by further elution with aqueous methanol. This was then followed by elution with 1M ammonia in methanol (×4) and these fractions collected and solvent evaporated to dryness leaving a white solid. This was triturated with Et2O and filtered leaving the subtitle compound as a white solid. Yield: 5.0 g.

reactant | N-Methyl piperazine | 5 ml | CN1CCNCC1 | C5H12N2
reactant | sulfamide | 11.26 g | S(=O)(=O)(N)N | H4N2O2S
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-Methyl-1-piperazinesulfonamide | CN1CCN(CC1)S(=O)(=O)N | C5H13N3O2S
